data/oMe_Silver.jsonl
{"reaction_id": "NR-109_1-c1ccc(OC)cc1","name": "Hofmann Rearrangement","level": "medium","reactants_smiles": ["C(c1ccc(OC)cc1)(=O)N","[OH-]","BrBr"],"products_smiles": ["N(c1ccc(OC)cc1)"],"conditions": "NaOH, Br2","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(=O)[NH-]","rationale": "Strong base deprotonates the amide nitrogen, increasing its nucleophilicity and enabling subsequent electrophilic bromination."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(c1ccc(OC)cc1)(=O)NBr","rationale": "The nucleophilic nitrogen attacks electrophilic bromine due to Br2 polarization in basic medium, forming an N-bromoamide."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(=O)[N-]Br","rationale": "Base deprotonates the N–H of the N-bromoamide, generating a negatively charged nitrogen that facilitates rearrangement."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=C=Nc1ccc(OC)cc1","rationale": "The electron-rich nitrogen promotes a 1,2-shift of c1ccc(OC)cc1 from carbon to nitrogen, driven by formation of a stable isocyanate and expulsion of bromide."},{"step": 5,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "N(=C(O)[O-])c1ccc(OC)cc1","rationale": "Hydroxide adds to the electrophilic carbon of the isocyanate, as the C=O is strongly polarized and susceptible to nucleophilic attack."},{"step": 6,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "[NH-]c1ccc(OC)cc1","rationale": "Collapse of the tetrahedral intermediate cleaves the C–N bond, releasing CO2 and forming an amide anion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N(c1ccc(OC)cc1)","rationale": "The amide anion is protonated by water or solvent, yielding the primary amine product."}],"description": "Under strongly basic, oxidative conditions (NaOH, Br2), the amide undergoes Hofmann rearrangement. Bromination at nitrogen, followed by base-induced rearrangement, generates an isocyanate intermediate, which hydrolyzes to a primary amine with loss of the carbonyl carbon as CO2."}
{"reaction_id": "NR-221_1-c4ccccc4_2-C(=O)OCC","level": "hard","name": "Pictet-Spengler Reaction","reactants_smiles": ["NCCC1=CNC2=C1C=CC=C2","O=C(c4ccccc4)(C(=O)OCC)"],"products_smiles": ["C1(c4ccccc4)(C(=O)OCC)NCCC2=C1NC3=C2C=CC=C3"],"conditions": null,"mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c4ccccc4)(C(=O)OCC)=[NH+]C(CC1=CNC2=C1C=CC=C2)","step_weight": 0,"rationale": "The amine nitrogen attacks the electrophilic carbonyl carbon, facilitated by the electron-withdrawing effect of c4ccccc4 and C(=O)OCC, forming an iminium ion stabilized by resonance with the nitrogen."},{"step": 2,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C1(c4ccccc4)(C(=O)OCC)NCCC2C1=[NH+]C3=C2C=CC=C3","step_weight": 0,"rationale": "The electron-rich aromatic ring attacks the iminium carbon, driven by the strong electrophilicity of the iminium and the proximity in the tethered intermediate, favoring intramolecular cyclization."},{"step": 3,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1(c4ccccc4)(C(=O)OCC)NCCC2=C1NC3=C2C=CC=C3","step_weight": 0,"rationale": "Deprotonation adjacent to the nitrogen restores aromaticity, a thermodynamically favored process, stabilizing the fused heteroaromatic system."}],"description": "The Pictet–Spengler reaction proceeds via iminium ion formation from the amine and carbonyl, followed by intramolecular electrophilic aromatic substitution to form the fused heterocycle, and concludes with deprotonation to restore aromaticity and yield the stable product."}
